* SPICE3 file created from AND.ext - technology: scmos
.include TSMC_180nm.txt

.option scale=0.09u
VDD Vdd 0 1.8

M1000 AND NAND Vdd Vdd CMOSP w=20 l=2
+  ad=120 pd=52 as=560 ps=256
M1001 Vdd B NAND Vdd CMOSP w=20 l=2
+  ad=0 pd=0 as=280 ps=68
M1002 NOR A 0 0 CMOSN w=10 l=2
+  ad=120 pd=44 as=320 ps=174
M1003 AND NAND 0 0 CMOSN w=10 l=2
+  ad=60 pd=32 as=0 ps=0
M1004 NOR B imOR Vdd CMOSP w=20 l=2
+  ad=120 pd=52 as=240 ps=64
M1005 0 B NOR 0 CMOSN w=10 l=2
+  ad=0 pd=0 as=0 ps=0
M1006 OR NOR Vdd Vdd CMOSP w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1007 imAND A 0 0 CMOSN w=20 l=2
+  ad=280 pd=68 as=0 ps=0
M1008 NAND A Vdd Vdd CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1009 imOR A Vdd Vdd CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1010 OR NOR 0 0 CMOSN w=10 l=2
+  ad=60 pd=32 as=0 ps=0
M1011 NAND B imAND 0 CMOSN w=20 l=2
+  ad=124 pd=54 as=0 ps=0

VA A 0 PULSE(0 1.8 0n 0.1n 0.1n 20n 40n)
VB B 0 PULSE(0 1.8 0n 0.1n 0.1n 15n 30n)
.tran 0.1n 100n
.control
run 
.endc
.end
