* Prasanna N.R 2024102056
.include TSMC_180nm.txt
.option scale=0.09u

* --- Power Supply ---
VDD Vdd 0 1.8

* --- Transistor Network (unchanged) ---
M1000 I1 in Vdd Vdd CMOSP w=80 l=2
+  ad=960 pd=184 as=1960 ps=482
M1001 I2 clk 0 0 CMOSN w=40 l=2
+  ad=360 pd=98 as=780 ps=292
M1002 out O3 0 0 CMOSN w=20 l=2
+  ad=140 pd=54 as=0 ps=0
M1003 O3 O2 Vdd Vdd CMOSP w=40 l=2
+  ad=720 pd=116 as=0 ps=0
M1004 O1 in 0 0 CMOSN w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1005 O2 clk Vdd Vdd CMOSP w=40 l=2
+  ad=800 pd=120 as=0 ps=0
M1006 O2 O1 I2 0 CMOSN w=40 l=2
+  ad=320 pd=96 as=0 ps=0
M1007 O3 clk I3 0 CMOSN w=40 l=2
+  ad=360 pd=98 as=280 ps=94
M1008 I3 O2 0 0 CMOSN w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1009 out O3 Vdd Vdd CMOSP w=40 l=2
+  ad=280 pd=94 as=0 ps=0
M1010 O1 clk I1 Vdd CMOSP w=80 l=2
+  ad=720 pd=178 as=0 ps=0

* --- Parasitic Capacitors (from Magic) ---

* --- Input Stimuli ---
VIN in 0 PULSE(0 1.8 0 0.1n 0.1n 12n 24n)
VCLK clk 0 PULSE(0 1.8 0 0.1n 0.1n 9n 18n)

* --- Simulation Command ---
.tran 0.1n 200n

.control
run

* 50% delay from 2nd rising edge of clk to 1st falling edge of out
meas tran t_delay trig v(clk) val=0.9 rise=2 targ v(out) val=0.9 fall=1


print t_delay

plot v(in) v(clk)+6 v(out)+12
.endc

.end
