* Prasanna N.R 2024102056
.include TSMC_180nm.txt

.option scale=0.09u
VDD Vdd 0 1.8

M1000 B_not B Vdd Vdd CMOSP w=40 l=2
+  ad=200 pd=90 as=480 ps=184
M1001 out B A_not gnd CMOSN w=10 l=2
+  ad=160 pd=72 as=180 ps=86
M1002 out B_not A_not Vdd CMOSP w=20 l=2
+  ad=320 pd=112 as=320 ps=142
M1003 B_not B 0 0 CMOSN w=20 l=2
+  ad=100 pd=50 as=200 ps=100
M1004 out B_not A gnd CMOSN w=10 l=2
+  ad=0 pd=0 as=80 ps=36
M1005 A_not A Vdd Vdd CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1006 A_not A 0 0 CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1007 out B A Vdd CMOSP w=20 l=2
+  ad=0 pd=0 as=120 ps=52
C0 B A_not 0.72fF
C1 B_not out 0.20fF
C2 B A 0.18fF
C3 B out 0.12fF
C4 out 0 1.61fF
C5 A 0 0.26fF
C6 B_not 0 1.08fF
C7 B 0 1.04fF
C8 w_41_n133# 0 0.93fF
C9 w_42_n47# 0 0.93fF
C10 w_n25_n46# 0 1.74fF
C11 w_42_60# 0 1.74fF

VA A 0 PULSE(0 1.8 0n 0.1n 0.1n 20n 40n)
VB B 0 PULSE(0 1.8 0n 0.1n 0.1n 15n 30n)
.tran 0.1n 100n

* Control section
.control
run
plot v(A) v(B)+2  v(out)+4
.endc

.end