* SPICE3 file created from combined.ext - technology: scmos
.include TSMC_180nm.txt

.option scale=0.09u
VDD Vdd 0 1.8

M1000 G0 NAND0 0 0 CMOSN w=10 l=2
+  ad=60 pd=32 as=2080 ps=858
M1001 B0 B0I6 0 0 CMOSN w=20 l=2
+  ad=220 pd=90 as=0 ps=0
M1002 OR NOR Vdd Vdd CMOSP w=20 l=2
+  ad=120 pd=52 as=4960 ps=1404
M1003 B0I6 B0I3 Vdd Vdd CMOSP w=40 l=2
+  ad=720 pd=116 as=0 ps=0
M1004 NOR A 0 0 CMOSN w=10 l=2
+  ad=120 pd=44 as=0 ps=0
M1005 Vdd A0 NAND0 Vdd CMOSP w=20 l=2
+  ad=0 pd=0 as=280 ps=68
M1006 A0 A0I3 Vdd Vdd CMOSP w=40 l=2
+  ad=280 pd=94 as=0 ps=0
M1007 B0I1 clk B0I0 Vdd CMOSP w=80 l=2
+  ad=720 pd=178 as=960 ps=184
M1008 B0 B0I6 Vdd Vdd CMOSP w=40 l=2
+  ad=400 pd=146 as=0 ps=0
M1009 A0I6 inA0 Vdd Vdd CMOSP w=80 l=2
+  ad=960 pd=184 as=0 ps=0
M1010 ImAND0 B0 0 0 CMOSN w=20 l=2
+  ad=280 pd=68 as=0 ps=0
M1011 A0I3 clk A0I4 0 CMOSN w=40 l=2
+  ad=360 pd=98 as=280 ps=94
M1012 A0_not B0 Vdd Vdd CMOSP w=40 l=2
+  ad=320 pd=142 as=0 ps=0
M1013 A0_not B0 0 0 CMOSN w=20 l=2
+  ad=180 pd=86 as=0 ps=0
M1014 A0I0 clk A0I6 Vdd CMOSP w=80 l=2
+  ad=720 pd=178 as=0 ps=0
M1015 B0_not A0 Vdd Vdd CMOSP w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1016 B0I3 clk Vdd Vdd CMOSP w=40 l=2
+  ad=800 pd=120 as=0 ps=0
M1017 imOR A Vdd Vdd CMOSP w=20 l=2
+  ad=240 pd=64 as=0 ps=0
M1018 OR NOR 0 0 CMOSN w=10 l=2
+  ad=60 pd=32 as=0 ps=0
M1019 P0 A0 B0 Vdd CMOSP w=20 l=2
+  ad=320 pd=112 as=0 ps=0
M1020 B0I3 B0I1 B0I4 0 CMOSN w=40 l=2
+  ad=320 pd=96 as=360 ps=98
M1021 B0I6 clk B0I5 0 CMOSN w=40 l=2
+  ad=360 pd=98 as=280 ps=94
M1022 A0I2 clk Vdd Vdd CMOSP w=40 l=2
+  ad=800 pd=120 as=0 ps=0
M1023 A0I0 inA0 0 0 CMOSN w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1024 B0I1 in 0 0 CMOSN w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1025 A0I3 A0I2 Vdd Vdd CMOSP w=40 l=2
+  ad=720 pd=116 as=0 ps=0
M1026 A0I4 A0I2 0 0 CMOSN w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1027 P0 B0_not A0_not Vdd CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1028 NAND0 A0 ImAND0 0 CMOSN w=20 l=2
+  ad=124 pd=54 as=0 ps=0
M1029 A0I5 clk 0 0 CMOSN w=40 l=2
+  ad=360 pd=98 as=0 ps=0
M1030 NAND0 B0 Vdd Vdd CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1031 G0 NAND0 Vdd Vdd CMOSP w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1032 A0 A0I3 0 0 CMOSN w=20 l=2
+  ad=140 pd=54 as=0 ps=0
M1033 P0 A0 A0_not 0 CMOSN w=10 l=2
+  ad=160 pd=72 as=0 ps=0
M1034 0 B NOR 0 CMOSN w=10 l=2
+  ad=0 pd=0 as=0 ps=0
M1035 P0 B0_not B0 0 CMOSN w=10 l=2
+  ad=0 pd=0 as=0 ps=0
M1036 A0I2 A0I0 A0I5 0 CMOSN w=40 l=2
+  ad=320 pd=96 as=0 ps=0
M1037 B0I4 clk 0 0 CMOSN w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1038 B0I0 in Vdd Vdd CMOSP w=80 l=2
+  ad=0 pd=0 as=0 ps=0
M1039 B0I5 B0I3 0 0 CMOSN w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1040 B0_not A0 0 0 CMOSN w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1041 NOR B imOR Vdd CMOSP w=20 l=2
+  ad=120 pd=52 as=0 ps=0
C0 B Vdd 0.07fF
C1 A0 0 0.16fF
C2 B0I3 Vdd 0.17fF
C3 B0 B0I6 0.06fF
C4 B0 0 0.16fF
C5 B0I0 B0I1 0.05fF
C6 in B0I1 0.04fF
C7 Vdd Vdd 1.85fF
C8 A0I6 A0I0 0.05fF
C9 B0I6 B0I5 0.08fF
C10 A0 A0I3 0.06fF
C11 B0 Vdd 0.08fF
C12 0 B0I5 0.04fF
C13 Vdd Vdd 0.03fF
C14 B0I3 clk 0.16fF
C15 clk Vdd 0.27fF
C16 P0 Vdd 0.03fF
C17 A0 A0_not 0.72fF
C18 A0I0 A0I2 0.05fF
C19 Vdd Vdd 0.05fF
C20 A0 Vdd 0.05fF
C21 B0 A0_not 0.05fF
C22 B0I3 B0I1 0.05fF
C23 NOR Vdd 0.10fF
C24 inA0 0 0.05fF
C25 A0I2 clk 0.16fF
C26 0 in 0.05fF
C27 B0I1 Vdd 0.03fF
C28 A0 Vdd 0.05fF
C29 A0 NAND0 0.25fF
C30 clk Vdd 0.27fF
C31 0 A0I4 0.04fF
C32 B0 Vdd 0.05fF
C33 clk A0I0 0.22fF
C34 NAND0 G0 0.05fF
C35 B0 Vdd 0.05fF
C36 0 B0I4 0.03fF
C37 Vdd Vdd 0.08fF
C38 inA0 Vdd 0.09fF
C39 NAND0 Vdd 0.09fF
C40 A0 Vdd 0.08fF
C41 P0 Vdd 0.03fF
C42 B0_not Vdd 0.08fF
C43 A0_not Vdd 0.04fF
C44 A0 P0 0.12fF
C45 A0I3 Vdd 0.19fF
C46 B0 P0 0.02fF
C47 A0I3 A0I4 0.08fF
C48 B0_not Vdd 0.04fF
C49 B0_not P0 0.20fF
C50 B0I6 Vdd 0.19fF
C51 clk B0I1 0.22fF
C52 A0I0 0 0.16fF
C53 B0I0 Vdd 0.02fF
C54 Vdd Vdd 0.03fF
C55 A0 Vdd 0.08fF
C56 in Vdd 0.09fF
C57 0 A0I5 0.03fF
C58 B0 Vdd 0.06fF
C59 A0 B0 2.39fF
C60 inA0 A0I0 0.04fF
C61 A0I6 Vdd 0.02fF
C62 A0_not Vdd 0.06fF
C63 Vdd Vdd 1.85fF
C64 A Vdd 0.07fF
C65 A0 Vdd 0.07fF
C66 NOR OR 0.05fF
C67 A0 B0_not 0.07fF
C68 B0 Vdd 0.07fF
C69 B NOR 0.15fF
C70 A0I2 Vdd 0.17fF
C71 G0 Vdd 0.02fF
C72 OR Vdd 0.02fF
C73 A0I0 Vdd 0.03fF
C74 0 B0I1 0.16fF
C75 P0 A0_not 0.02fF
C76 0 0 0.97fF
C77 B0I5 0 0.02fF
C78 B0I4 0 0.03fF
C79 clk 0 0.64fF
C80 B0I6 0 0.41fF
C81 B0I3 0 0.14fF
C82 B0I1 0 0.83fF
C83 B0I0 0 0.01fF
C84 Vdd 0 0.04fF
C85 clk 0 0.29fF
C86 in 0 0.16fF
C87 A0_not 0 0.07fF
C88 P0 0 1.61fF
C89 B0_not 0 1.08fF
C90 A0I4 0 0.03fF
C91 A0I5 0 0.03fF
C92 A0I3 0 0.90fF
C93 A0I2 0 0.80fF
C94 G0 0 0.07fF
C95 A0I0 0 0.58fF
C96 A0I6 0 0.01fF
C97 clk 0 0.76fF
C98 inA0 0 0.15fF
C99 NAND0 0 0.43fF
C100 A0 0 0.15fF
C101 B0 0 5.56fF
C102 OR 0 0.07fF
C103 NOR 0 0.48fF
C104 B 0 0.21fF
C105 A 0 0.32fF
C106 Vdd 0 0.93fF
C107 Vdd 0 0.93fF
C108 Vdd 0 1.74fF
C109 Vdd 0 23.06fF
C110 Vdd 0 1.74fF
C111 Vdd 0 2.45fF
C112 Vdd 0 23.06fF
C113 Vdd 0 2.78fF


VinA inA0 0 PULSE(0 1.8 0n 0.1n 0.1n 20n 40n)
VinB inB0 0 PULSE(0 1.8 0n 0.1n 0.1n 15n 30n)
Vclk clk 0 PULSE(0 1.8 0n 0.1n 0.1n 18n 36n)

.tran 0.1n 100n

.control
run
plot v(inA0) v(inB0) 
.endc

.end